US04778817
3.31 g (11.8 mmol) of methyl 6-(5-methyl-1-imidazolyl)methyl-2-naphthoate in 40 ml of 2N HCl are heated under reflux for three hours, and active charcoal is added and the mixture is filtered hot. The hydrochloride of the acid crystallizes out on cooling. 3.03 g (85%) of 6-(5-methyl-1-imidazolyl)methyl-2-naphthoic acid hydrochloride are obtained after filtration with suction, washing with acetone and drying. Melting point: 289°-290° C.

reactant | methyl 6-(5-methyl-1-imidazolyl)methyl-2-naphthoate | 11.8 mmol, 3.31 g | CC1=CN=CN1CC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C17H16N2O2
reactant | charcoal | C | CH4
reactant | HCl | 2N, 40 ml | Cl | ClH
product | 6-(5-methyl-1-imidazolyl)methyl-2-naphthoic acid hydrochloride | 3.03 g, 85% | Cl.CC1=CN=CN1CC=1C=C2C=CC(=CC2=CC1)C(=O)O | InChI=1S/C16H14N2O2.ClH/c1-11-8-17-10-18(11)9-12-2-3-14-7-15(16(19)20)5-4-13(14)6-12;/h2-8,10H,9H2,1H3,(H,19,20);1H
